US06992087B2
Preparation of 3,6-diethyl-N-(5-methyl-4,5,6,7-tetrahydro-1-benzothien-4-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 5-methyl-4,5,6,7-tetrahydro-1-benzothien-4-ylamine and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ) 7.66, 7.07, 6.91, 6.83, 5.62, 5.15, 4.46, 4.35, 3.09, 2.65-2.55, 2.28, 2.06-1.97, 1.80, 1.29, 1.11, 1.01; (MS/CI) calcd for C17H23N3S+H 301.6, found 301.9.

reactant | (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C17H21N3O
reactant | 5-methyl-4,5,6,7-tetrahydro-1-benzothien-4-ylamine | CC1CCC2=C(C=CS2)C1N | C9H13NS
product | 3,6-diethyl-N-(5-methyl-4,5,6,7-tetrahydro-1-benzothien-4-yl)pyrazin-2-amine | C(C)C=1C(=NC(=CN1)CC)NC1C(CCC2=C1C=CS2)C | C17H23N3S
